* LM2596-ADJ feedback-divider value-sizing — parametric SWEEP deck
* ---------------------------------------------------------------------------
* SCOPE: value-sizing only (DC divider). NOT a buck stability/ripple sim.
*
* This deck demonstrates the "adjust R3 -> re-check" step of the loop:
* sweep the TOP resistor R3 and read back the rail Vout that the LM2596 will
* servo to (FB held at Vref). Use it to pick the E24 R3 that lands the rail
* closest to a new target without rebuilding the deck by hand.
*
*   Vout(R3) = Vref * (1 + R3/R4),  R4 = 1.0k, Vref = 1.23 V
*
* Worked targets this answers:
*   +7.5 V  -> R3 ~ 5.1k  (as-designed)
*   +13.5 V -> R3 ~ 10k   (would be the +12V-rail intermediate)
* ---------------------------------------------------------------------------

.title LM2596-ADJ divider R3 sweep

.param Vref = 1.23
.param Rbot = 1.0k
.param Rtop = 5.1k        ; swept below

* FB pinned to Vref (regulator loop closed); read back VOUT vs R3.
Vrefsrc vref_ref 0 DC {Vref}
Eb   fb  0   vref_ref 0  1
R3   vout  fb   {Rtop}
R4   fb    0    {Rbot}

.control
  echo "=== sweep R3 (top) over E24-ish values; read rail Vout (FB=Vref) ==="
  foreach r3val 3.0k 3.3k 5.1k 9.1k 10k 11k
    alterparam Rtop = $r3val
    reset
    op
    echo "R3 = $r3val :"
    print v(vout)
  end
.endc

.end
